US06734180B1
2-(tert-butoxycarbonylamino)-5-hydroxyindan (100 mg, 0.40 mmol) synthesized in the above Preparation Example 1 was dissolved in acetone (2 ml), to which potassium carbonate (58 mg, 0.45 mmol) and benzylbromide (48 μl, 0.40 mmol) were added, and the mixture was heated to reflux for 3 hours. The reaction mixture was extracted with ether and dried, and then the solvent was distilled off under reduced pressure to obtain 2-(tert-butoxycarbonylamino)-5-phenoxyindan (120 mg, 0.36 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)-5-hydroxyindan | 0.40 mmol, 100 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)O | C14H19NO3
reactant | potassium carbonate | 0.45 mmol, 58 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 0.40 mmol, 48 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 2-(tert-butoxycarbonylamino)-5-phenoxyindan | 0.36 mmol, 120 mg | C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)OC1=CC=CC=C1 | C20H23NO3
